US06743608B2
(2S)-2-Ethoxy-3-(4-hydroxyphenyl)propanoic acid/Isopropyl (2R)-2-ethoxy-3-(4-hydroxyphenyl)propanoate
Isopropyl (2RS) (+/−) 2-ethoxy-3-(4-hydroxyphenyl)propanoate (0.5 ml of a solution containing 2 mg/ml in a phosphate, pH 7; 0.1 M, or acetate buffer, pH 5; 0.1 M) was added to the reaction vessel followed by an enzyme (0.5 ml enzyme solution). The reaction mixture was shaken at room temperature and analysed at different times (maximum 28 h). The reaction mixture was analysed without work up by the gradient HPLC method 1, chiral HPLC methods 3 and 5, and by the CCE method 1.

reactant | Isopropyl (2RS) (+/−) 2-ethoxy-3-(4-hydroxyphenyl)propanoate | C(C)OC(C(=O)OC(C)C)CC1=CC=C(C=C1)O | C14H20O4
reactant | phosphate | P(=O)([O-])([O-])[O-]
reactant | acetate | C(C)(=O)[O-]
product | (2S)-2-Ethoxy-3-(4-hydroxyphenyl)propanoic acid Isopropyl (2R)-2-ethoxy-3-(4-hydroxyphenyl)propanoate | C(C)O[C@H](C(=O)O)CC1=CC=C(C=C1)O.C(C)O[C@@H](C(=O)OC(C)C)CC1=CC=C(C=C1)O | InChI=1S/C14H20O4.C11H14O4/c1-4-17-13(14(16)18-10(2)3)9-11-5-7-12(15)8-6-11;1-2-15-10(11(13)14)7-8-3-5-9(12)6-4-8/h5-8,10,13,15H,4,9H2,1-3H3;3-6,10,12H,2,7H2,1H3,(H,13,14)/t13-;10-/m10/s1
